US04189598
A mixture of 2-(2-indenyl)-3-methylbutanoic acid (3.4 mmol), potassium bicarbonate (3.4 mmol) in 10 ml of tetrahydrofuran/dimethylformamide (1/1) is stirred for a few minutes and then α-cyano-m-phenoxybenzyl mesylate (3.4 mmol) in 5 ml of tetrahydrofuran/dimethylformamide (1/1) is added. The reaction is worked up by diluting with ether, washing with water and sat. NaCl, drying and evaporating under vacuum to remove solvent to yield α-cyano-m-phenoxybenzyl 2-(2-indenyl)-3-methylbutanoate.

reactant | 2-(2-indenyl)-3-methylbutanoic acid | 3.4 mmol | C1C(=CC2=CC=CC=C12)C(C(=O)O)C(C)C | C14H16O2
reactant | potassium bicarbonate | 3.4 mmol | C([O-])(O)=O.[K+]
reactant | α-cyano-m-phenoxybenzyl mesylate | 3.4 mmol | S(C)(=O)(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N | C15H13NO4S
solvent | tetrahydrofuran dimethylformamide | 10 ml | O1CCCC1.CN(C=O)C
solvent | tetrahydrofuran dimethylformamide | 5 ml | O1CCCC1.CN(C=O)C
solvent | ether | CCOCC | C4H10O
product | α-cyano-m-phenoxybenzyl 2-(2-indenyl)-3-methylbutanoate | C1C(=CC2=CC=CC=C12)C(C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C(C)C | C28H25NO3
